US07371748B2
N-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-furan-2-yl)-acetamide
Using 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine and (tetrahydro-furan-2-yl)-acetic acid, the title compound was prepared in the same manner as described for N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-pyran-4-yl)-acetamide and obtained as white solid (50% yield). Mp 170-174° C., MS: m/e=377(M+H+).

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | (tetrahydro-furan-2-yl)-acetic acid | O1C(CCC1)CC(=O)O | C6H10O3
reactant | N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-pyran-4-yl)-acetamide | COC1=CC=C(C2=C1N=C(S2)NC(CC2CCOCC2)=O)C2CCOCC2 | C20H26N2O4S
product | N-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-furan-2-yl)-acetamide | COC1=CC=C(C2=C1N=C(S2)NC(CC2OCCC2)=O)C2CCOCC2 | C19H24N2O4S
